US08703768B2
Step 1: Ethyl 3-amino-6-(tetrahydrofuran-3-yl)picolinate
According to step 1 and 2 of example 96, the title compound was prepared starting from ethyl 3-amino-6-bromopicolinate and furan-2-ylboronic acid. Light yellow solid.

reactant | ethyl 3-amino-6-bromopicolinate | NC=1C(=NC(=CC1)Br)C(=O)OCC | C8H9BrN2O2
reactant | furan-2-ylboronic acid | O1C(=CC=C1)B(O)O | C4H5BO3
product | Ethyl 3-amino-6-(tetrahydrofuran-3-yl)picolinate | NC=1C(=NC(=CC1)C1COCC1)C(=O)OCC | C12H16N2O3
